US08258122B2
a) Ethyl 1,2,4-oxadiazole-3-carboxylate
To a suspension of ethyl 2-(hydroxyamino)-2-iminoacetate (3 g, 22.71 mmol) in triethylorthoformate (14 mL, 84.08 mmol) was added boron trifluoride diethyl etherate (0.144 mL, 1.14 mmol). It was heated for 90 minutes. The reaction mixture was concentrated under reduced pressure and the residue dissolved in chloroform. The resulting organic layer was washed with aqueous hydrochloric acid 2N (2×80 mL), aqueous sodium bicarbonate 4% (1×80 mL) and water (2×80 mL), it was dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to yield the title compound (2.70 g, 79%) as a yellow oil.

reactant | ethyl 2-(hydroxyamino)-2-iminoacetate | 22.71 mmol, 3 g | ONC(C(=O)OCC)=N | C4H8N2O3
reactant | triethylorthoformate | 84.08 mmol, 14 mL | C(C)OC(OCC)OCC | C7H16O3
catalyst | boron trifluoride diethyl etherate | 1.14 mmol, 0.144 mL | B(F)(F)F.CCOCC
product | Ethyl 1,2,4-oxadiazole-3-carboxylate | 2.70 g, 79% | O1N=C(N=C1)C(=O)OCC | C5H6N2O3
